US04510142
2-(4-phenylpiperidino)-2-oxoethyl 2-(2'-chloro-4-biphenylyl)propionate;
2-(2-aminopyridine(-2-oxoethyl 2-(2'-chloro-4-biphenylyl)propionate oxalate.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 2-oxoethyl 2-(2'-chloro-4-biphenylyl)propionate oxalate | C(C(=O)O)(=O)O.ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC=O)C
product | 2-(4-phenylpiperidino)-2-oxoethyl 2-(2'-chloro-4-biphenylyl)propionate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC(=O)N1CCC(CC1)C1=CC=CC=C1)C | C28H28ClNO3
